US07238724B2
(1S,3R)-{3-[(pyridin-2-ylmethyl)-carbamoyl]-cyclopentyl}-carbamic acid tert-butyl ester
To a solution of (1S,3R)-3-tert-butoxycarbonylamino-cyclopentanecarboxylic acid (91.6 mg, 0.4 mmol) in DMF (4 mL) was added pycoylamine (0.045 mL, 0.44 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDAC), (93 mg, 0.48 mmol), 1-hydroxybenzotriazole (HOBT), (82 mg, 0.6 mmol), and diisopropylethylamine (0.35 mL, 2 mmol). The mixture was stirred at room temperature for 16 hours. The mixture was diluted with ethyl acetate, washed with water (2 times) and brine. The organic layer was dried (sodium sulfate), filtered, concentrated under reduced pressure and purified by flash chromatography with 3% methanol/dichloromethane to provide the titled compound. MS (ESI) m/z 320 (M+H)+.

reactant | (1S,3R)-3-tert-butoxycarbonylamino-cyclopentanecarboxylic acid | 0.4 mmol, 91.6 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@H](CC1)C(=O)O | C11H19NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.48 mmol, 93 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.6 mmol, 82 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 2 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S,3R)-{3-[(pyridin-2-ylmethyl)-carbamoyl]-cyclopentyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C[C@@H](CC1)C(NCC1=NC=CC=C1)=O)=O | C17H25N3O3
